US09107411B2
Stage 4: 6-chloro-1-cyclopropyl-5-(cyclopropylcarbamoyl)-1H-benzimidazole-2-carboxylic acid
1.65 g (4.9 mmol) of methyl 6-chloro-1-cyclopropyl-5-(cyclopropylcarbamoyl)-1H-benzimidazole-2-carboxylate were dissolved in 82 ml of THF and admixed at 0° C. with 0.24 g (9.89 mmol) of lithium hydroxide predissolved in 18 ml of water, and the reaction mixture was stirred at room temperature for 18 hours. The THF was distilled off and the aqueous phase was extracted three times with ethyl acetate; the aqueous phase was adjusted to pH=3 with HCl. The solid which precipitates out was filtered off with suction. Due to its relative instability, the acid was used for subsequent reactions without further purification.

reactant | methyl 6-chloro-1-cyclopropyl-5-(cyclopropylcarbamoyl)-1H-benzimidazole-2-carboxylate | 4.9 mmol, 1.65 g | ClC=1C(=CC2=C(N(C(=N2)C(=O)OC)C2CC2)C1)C(NC1CC1)=O | C16H16ClN3O3
reactant | lithium hydroxide | 9.89 mmol, 0.24 g | [OH-].[Li+]
solvent | THF | 82 ml | C1CCOC1 | C4H8O
solvent | water | 18 ml | O | H2O
product | 6-chloro-1-cyclopropyl-5-(cyclopropylcarbamoyl)-1H-benzimidazole-2-carboxylic acid | ClC=1C(=CC2=C(N(C(=N2)C(=O)O)C2CC2)C1)C(NC1CC1)=O | C15H14ClN3O3
